US06677347B2
A solution of the compound of Example 52, 1-[2-(2-aminoethoxy)ethyl]-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine (800 mg, 2.67 mmol) in 30 mL of CH2Cl2 was treated with triethylamine (1.10 mL, 8.00 mmol). With vigorous stirring, the solution was treated dropwise with methanesulfonyl chloride (0.217 mL, 2.80 mmol). After 18 h, the reaction was treated with 50 mL of water and the layers were separated. The aqueous portion was extracted with CHCl3 (3×30 mL). The combined organic portions were washed with brine, dried over Na2SO4, filtered and concentrated to yield an off white solid. Purification by column chromatography (SiO2, 95:5:0.5 CHCl3:MeOH:NH4OH) gave 463 mg of N-{2-[2-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}methanesulfonamide as a white solid.

reactant | 1-[2-(2-aminoethoxy)ethyl]-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 2.67 mmol, 800 mg | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC | C16H21N5O
reactant | triethylamine | 8.00 mmol, 1.10 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.80 mmol, 0.217 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 50 mL | O | H2O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[2-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}methanesulfonamide | 463 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNS(=O)(=O)C)CC | C17H23N5O3S
